US06756378B2
To a stirred mixture of methyl 5-(2-pyrrolidinyl)methoxypyridine-2-carboxylate (370 mg, 1.57 mmol), 4-[N′-(2-bromophenyl)ureido]-3-methoxyphenylacetic acid (595 mg, 1.57 mmol), 4-DMAP (230 mg, 1.88 mmol) in DMF (10 ml) was added EDC.HCl (360 mg, 1.88 mmol) at room temperature. The resulting mixture was stirred at room temperature for 20 hr. The mixture was pored into ice-water. The solid was collected, washed with water and air-dried. The crude solid was purified by silica-gel (30 ml) column chromatography with CHCl3—EtOH (98:2, v/v) as eluent and crystallized with Et2O to give methyl 5-[1-[4-[N′-(2-bromophenyl)ureido]-3-methoxypheny lacetyl]-2-pyrrolidinylmethoxy]pyridine-2-carboxylate (650 mg, 69%) as an amorphous solid. IR (KBr) n 3323, 1720, 1624, 1601, 1527 cm−1; 1H-NMR (CDCl3) δ1.22 and 2.00 (each m, 4 H), 3.48-4.55 (series of s and m, 13 H which contains amide-isomers), 6.93-8.82 (series of s and m, 12H which contains amide-isomers); MS (FAB) m/z 597 (M+−1) and 599 (M++1); Anal. Calcd. for C28H30BrN4O6.1.0×H2O: C, 54.55; H, 5.23; N, 9.09. Found: C, 54.13; H, 5.03; N, 9.33.

reactant | methyl 5-(2-pyrrolidinyl)methoxypyridine-2-carboxylate | 1.57 mmol, 370 mg | N1C(CCC1)COC=1C=CC(=NC1)C(=O)OC | C12H16N2O3
reactant | 4-[N′-(2-bromophenyl)ureido]-3-methoxyphenylacetic acid | 1.57 mmol, 595 mg | BrC1=C(C=CC=C1)NC(NC1=C(C=C(C=C1)CC(=O)O)OC)=O | C16H15BrN2O4
reactant | EDC.HCl | 1.88 mmol, 360 mg | CCN=C=NCCCN(C)C.Cl
catalyst | 4-DMAP | 1.88 mmol, 230 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | methyl 5-[1-[4-[N′-(2-bromophenyl)ureido]-3-methoxypheny lacetyl]-2-pyrrolidinylmethoxy]pyridine-2-carboxylate | 650 mg, 69% | BrC1=C(C=CC=C1)NC(NC1=C(C=C(C=C1)CC(=O)N1C(CCC1)COC=1C=CC(=NC1)C(=O)OC)OC)=O | C28H29BrN4O6
